US06638929B2
A mixture of 0.025 g (0.06 mmol) of N-[7-amino-3-cyano-4-(3,4,5-trimethoxyanilino)-6-quinolinyl]acrylamide and N-[6-amino-3-cyano-4-(3,4,5-trimethoxyanilino)-7-quinolinyl]acrylamide and 0.05 mL (6.0 mmol) of morpholine in 0.2 mL of N,N-dimethylformamide is stirred at room temperature overnight and the solvent is evaporated to dryness to yield an oil. The oil is triturated with diethyl ether several times and dried to yield 0.03 g of N-[7-amino-3-cyano-4-(3,4,5-trimethoxyanilino)-6-quinolinyl]-3-(4-morpholinyl)propanamide and N-[6-amino-3-cyano-4-(3,4,5-trimethoxyanilino)-7-quinolinyl]-3-(4-morpholinyl)propanamide as a yellow solid.

reactant | N-[7-amino-3-cyano-4-(3,4,5-trimethoxyanilino)-6-quinolinyl]acrylamide | 0.06 mmol, 0.025 g | NC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC(=C(C(=C1)OC)OC)OC)NC(C=C)=O | C22H21N5O4
reactant | N-[6-amino-3-cyano-4-(3,4,5-trimethoxyanilino)-7-quinolinyl]acrylamide | NC=1C=C2C(=C(C=NC2=CC1NC(C=C)=O)C#N)NC1=CC(=C(C(=C1)OC)OC)OC | C22H21N5O4
reactant | morpholine | 6.0 mmol, 0.05 mL | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
product | N-[7-amino-3-cyano-4-(3,4,5-trimethoxyanilino)-6-quinolinyl]-3-(4-morpholinyl)propanamide | 0.03 g | NC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC(=C(C(=C1)OC)OC)OC)NC(CCN1CCOCC1)=O | C26H30N6O5
